US08669234B2
Trifluoro-methanesulfonic acid 2-(4-bromo-phenyl)-benzo[b]thiophen-6-yl ester.
Tf2O was added slowly to a mixture of 2-(4-bromo-phenyl)-benzo[b]thiophen-6-ol (200 mg, 0.66 mol) in pyridine (3 mL) at 0° C. with stirring. The mixture was stirred at ambient temperature for 16 hours before quenched with NaHCO3 solution. The mixture was extracted with ethyl acetate (50 mL). The organic layer was washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was used for next step reaction without further purification.

reactant | Tf2O | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-(4-bromo-phenyl)-benzo[b]thiophen-6-ol | 0.66 mol, 200 mg | BrC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)O | C14H9BrOS
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic acid 2-(4-bromo-phenyl)-benzo[b]thiophen-6-yl ester | BrC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C15H8BrF3O3S2
